US04191683
30.3 g of 2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine (compound no. 9), 200 ml of methanol and 2 ml of concentrated hydrochloric acid are introduced into an autoclave. About 9 g of ethyleneoxide are added, and the contents of the autoclave are heated to 130° C. for 30 hours. After cooling, the contents of the autoclave are purified by filtration, and the methanol is evaporated. Crystallization of the residue from toluene yields 1-β-hydroxyethyl-2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine (compound no. 27); m.p. 212°-214° C. If, instead of 30.3 g of 2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine an equimolar amount of N,N'-diacetyl-N,N'-bis-(2,6-diethyl-2,3,6-trimethyl-4-piperidyl)-hexamethylene-1,6-diamine (compound no. 22), 12 g instead of 9 g of ethyleneoxide are used and otherwise the procedure described above is followed, N,N'-diacetyl-N,N'-bis-(1-β-hydroxyethyl-2,6-diethyl-2,3,6-trimethyl-4-piperidyl)-hexamethylene-1,6-diamine (compound no. 28) is obtained as a yellowish viscous resin.

reactant | 2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine | 30.3 g | C(C)C1(NC(CC(C1C)NC(C1=CC=CC=C1)=O)(C)CC)C | C19H30N2O
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | ethyleneoxide | 9 g | C1CO1 | C2H4O
solvent | methanol | 200 ml | CO | CH4O
product | 1-β-hydroxyethyl-2,6-diethyl-2,3,6-trimethyl-4-benzamidopiperidine | OCCN1C(C(C(CC1(C)CC)NC(C1=CC=CC=C1)=O)C)(C)CC | C21H34N2O2
